US04032656
A mixture of 17.1 g. of 2,3-dicyanohydroquinone, 143.5 g. of methyl iodide and 43.5 g. of potassium carbonate is stirred in dimethylformide for approximately 20 hours. The mixture is then treated with 1 liter of water and filtered. The precipitate is washed with water and methanol and dried to yield 3,6-dimethoxyphthalonitrile. The nitrile is then slurried in 150 ml. of sodium hydroxide and heated at 115° C. for approximately seven hours. The resulting solution is cooled, filtered and acidified with hydrochloric acid to precipitate 3,6-dimethoxyphthalic acid. The acid is refluxed in 150 ml. of acetic anhydride for 15 hours and then cooled to room temperature. The resulting crystals are filtered and washed with ether to yield 3,6-dimethoxyphthalic anhydride having a melting point of 265°-268° C.

reactant | 2,3-dicyanohydroquinone | C(#N)C1=C(O)C=CC(=C1C#N)O | C8H4N2O2
reactant | methyl iodide | CI | CH3I
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | water | 1 liter | O | H2O
product | 3,6-dimethoxyphthalonitrile | COC1=C(C(C#N)=C(C=C1)OC)C#N | C10H8N2O2
